US07816522B2
(120a) 2-bromo-4-methoxy-5-triisopropylsilanyloxybenzaldehyde
After adding 10.9 g of sodium hydrogen carbonate and 2.32 ml of bromine to a solution of 10 g of 4-methoxy-3-triisopropylsilanyloxybenzaldehyde [CAS No. 179260-96-6] in 200 ml of chloroform at 0° C., the mixture was stirred at room temperature for 15 hours. Saturated aqueous sodium sulfite was then added to the reaction mixture, and extraction was performed with dichloromethane. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The desiccating agent was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (11.7 g) as a light yellow oil.

reactant | sodium hydrogen carbonate | 10.9 g | C(O)([O-])=O.[Na+]
reactant | bromine | 2.32 ml | BrBr | Br2
reactant | 4-methoxy-3-triisopropylsilanyloxybenzaldehyde | 10 g | COC1=C(C=C(C=O)C=C1)O[Si](C(C)C)(C(C)C)C(C)C | C17H28O3Si
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromo-4-methoxy-5-triisopropylsilanyloxybenzaldehyde | 11.7 g | BrC1=C(C=O)C=C(C(=C1)OC)O[Si](C(C)C)(C(C)C)C(C)C | C17H27BrO3Si
